US04742061
7,8-Dichloro-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione oxime
A stirred suspension of 6.37 g of 7,8-dichloro-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione in 95% ethanol (40 ml) was treated with a premixed solution of 3.28 g of hydroxylamine hydrochloride in water (25 ml) and 6.42 g of sodium acetate trihydrate in water (25 ml). The solution was heated at reflux for 2.5 hours. The solution was then cooled with an ice-water bath as a precipitate began to separate from the reaction mixture. The solid was collected by vacuum filtration and recrystallized from 95% ethanol (250 ml) to afford 5.29 g of crystals, m.p. 245°-246° C.

reactant | 7,8-dichloro-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione | 6.37 g | ClC=1C(=CC=2C(C3N(CC2C1)C(CC3)=O)=O)Cl | C12H9Cl2NO2
reactant | hydroxylamine hydrochloride | 3.28 g | Cl.NO
reactant | sodium acetate trihydrate | 6.42 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 7,8-Dichloro-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione oxime | 5.29 g | ClC=1C(=CC=2C(C3N(CC2C1)C(CC3)=NO)=O)Cl | C12H10Cl2N2O2
